US05783522
3-Chloro-2-(4-chloro-3-methoxymethylphenyl)-5-trifluoromethylpyridine (Table 1, Example I.081)
7.0 g of a 30% by weight solution of sodium methoxide in methanol were added to a solution of 5.0 g of 2-(3-bromomethyl-4-chlorophenyl)-3-chloro-5-trifluoromethylpyridine in 100 ml of anhydrous methanol. The mixture was refluxed for 8 hours and then concentrated. The residue was taken up in 100 ml of 10% strength hydrochloric acid, after which three extractions with 50 ml of ether each time were carried out. The ether phases were dried over sodium sulfate and concentrated. The oily residue was induced to crystallize with a little cold cyclohexane. Yield: 2.9 g (67%) of colorless crystals; melting point: 52°-54° C.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-(3-bromomethyl-4-chlorophenyl)-3-chloro-5-trifluoromethylpyridine | 5.0 g | BrCC=1C=C(C=CC1Cl)C1=NC=C(C=C1Cl)C(F)(F)F | C13H7BrCl2F3N
solvent | methanol | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 3-Chloro-2-(4-chloro-3-methoxymethylphenyl)-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)COC | C14H10Cl2F3NO
